US06861530B2
Sodium methylate (4.05 g, 21 mmol) was added to a methanol solution (20 mL) of 2,5-dibromopyridine (1 g, 4.2 mmol), followed by refluxing for 13 hours. The reaction solution was poured into dilute hydrochloric acid for neutralization and the mixture was extracted with a chloroform/methanol mixed solvent (chloroform/methanol=9/1). The extract was washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (eluted with chloroform/methanol=99/1) to obtain 2-methoxy-5-bromopyridine (660 mg; yield: 87%).

reactant | Sodium methylate | 21 mmol, 4.05 g | C[O-].[Na+]
reactant | 2,5-dibromopyridine | 4.2 mmol, 1 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
product | 2-methoxy-5-bromopyridine | 660 mg, yield: 87% | COC1=NC=C(C=C1)Br | C6H6BrNO
